US04329347
6-[5-(3,4-Dichlorophenyl-sulfinyl)-pentoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 123 from 6-[5-(3,4-dichlorophenyl-mercapto)-pentoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[5-(3,4-dichlorophenyl-mercapto)-pentoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)SCCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H21Cl2NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[5-(3,4-Dichlorophenyl-sulfinyl)-pentoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)S(=O)CCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H21Cl2NO3S
